US06191280B1
3-Fluoro-2-phenylthio-5-trifluoromethylpyridine
At 148-156° C., 59.6 g (0.326 mol) of 2,3-difluoro-5-trifluoromethylpyridine were added over a period of 2.5 h to 37.7 g (0.338 mol) of 98.7% pure thiophenol and 2.1 mg (0.01 mol %) of copper powder, and the mixture was stirred at 156-164° C. for 2 hours. After cooling, the residue was taken up in methylene chloride, washed with 0.5 N aqueous sodium hydroxide solution and water, dried over magnesium sulfate and concentrated under reduced pressure. 88.9 g (100% of theory) of the title compound of 24 n D

reactant | 2,3-difluoro-5-trifluoromethylpyridine | 0.326 mol, 59.6 g | FC1=NC=C(C=C1F)C(F)(F)F | C6H2F5N
reactant | thiophenol | 0.338 mol | C1(=CC=CC=C1)S | C6H6S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | copper | 2.1 mg | [Cu] | Cu
product | 3-Fluoro-2-phenylthio-5-trifluoromethylpyridine | FC=1C(=NC=C(C1)C(F)(F)F)SC1=CC=CC=C1 | C12H7F4NS
